US04618610
With ice-cooling and stirring, acetic anhydride (1.4 ml) was added dropwise to formic acid (0.7 ml) and the mixture was stirred at 50° C. for 15 minutes. This solution was added to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.28 g) in formic acid (6 ml) with ice-cooling and stirring, followed by further stirring with ice-cooling for 50 minutes. The reaction mixture was poured into ice water and the resulting precipitate was collected by filtration and washed with water. The solid was recrystallized from dimethyl sulfoxide to give 6-(4-formylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.36 g).

reactant | acetic anhydride | 1.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.28 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
solvent | formic acid | 6 ml | C(=O)O | CH2O2
solvent | formic acid | 0.7 ml | C(=O)O | CH2O2
product | 6-(4-formylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.36 g | C(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C11H12N4O2
